US06921763B2
To a solution of 3-pyrrolidinol (3.144 g, 3.00 mL, 36.09 mmol) in 1,4-dioxane (50 mL) and water (50 mL) was added di-tert-butyl dicarbonate (8.664 g, 39.70 mmol) and sodium bicarbonate (10.612 g, 126.3 mmol). The mixture was stirred at room temperature for 18 h to afford a white suspension in a yellow solution. The reaction mixture was filtered and the filtrate was extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated to afford rac-tert-butyl 3-hydroxy-1-pyrrolidinecarboxylate as a pale yellow oil (6.039 g, 89%). 1H NMR (DMSO-d6, 400 MHz) δ 1.51 (s, 9H), 1.84-2.05 (m, 2H), 2.28 (d, 1H), 3.33-3.48 (m, 4H), 4.43 (s, 1H).

reactant | 3-pyrrolidinol | 36.09 mmol, 3.00 mL, 3.144 g | N1CC(CC1)O | C4H9NO
reactant | di-tert-butyl dicarbonate | 39.70 mmol, 8.664 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 126.3 mmol, 10.612 g | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | rac-tert-butyl 3-hydroxy-1-pyrrolidinecarboxylate | 6.039 g, 89% | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
